US03966816
N-(2-methoxyethyl)3-chloro-2,6-dinitro-4-trifluoromethylaniline
The compound was prepared by reacting 2-methoxyethylamine was 2,4-dichloro-3,5-dinitrobenzotrifluoride in cyclohexane to give the product melting at 106.5° - 107.5°C.

reactant | 2-methoxyethylamine | COCCN | C3H9NO
reactant | 2,4-dichloro-3,5-dinitrobenzotrifluoride | ClC1=C(C=C(C(=C1[N+](=O)[O-])Cl)[N+](=O)[O-])C(F)(F)F | C7HCl2F3N2O4
solvent | cyclohexane | C1CCCCC1 | C6H12
product | N-(2-methoxyethyl)3-chloro-2,6-dinitro-4-trifluoromethylaniline | COCCNC1=C(C(=C(C=C1[N+](=O)[O-])C(F)(F)F)Cl)[N+](=O)[O-] | C10H9ClF3N3O5
